US09260427B2
Prepared using General Procedure 7: To a stirred solution of (S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-bromopyrimidin-2-yl)phenyl)propanoic acid (962 mg, 2.11 mmol) and (R)-tert-butyl 2-aminopropanoate hydrochloride (383 mg, 2.11 mmol) in DMF (20 mL) was added DIEA (1.2 mL, 6.32 mmol). The mixture was cooled to 0° C. and HATU (802 mg, 2.11 mmol) was added portionwise. The cooling bath was removed and the mixture was allowed to warm to room temperature. After 1 h the mixture was poured onto citric acid (100 mL of a 0.1 M aqueous solution) and iso-hexanes (20 mL) and the resulting precipitate collected by filtration, washing successively with water (2×10 mL), ACN (3 mL) and iso-hexanes (2×5 mL) to afford 1.1 g (89%) of tert-butyl ((S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-bromopyrimidin-2-yl)phenyl)propanoyl)-D-alaninate INT-42 as a white solid. LCMS-ESI (m/z) calculated for C28H31BrN4O5: 582.2. found 605.2 [M+Na]+, tR=7.94 min (Method 10).

reactant | (S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-bromopyrimidin-2-yl)phenyl)propanoic acid | 2.11 mmol, 962 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC=C(C=N1)Br | C21H18BrN3O4
reactant | (R)-tert-butyl 2-aminopropanoate hydrochloride | 2.11 mmol, 383 mg | Cl.N[C@@H](C(=O)OC(C)(C)C)C
reactant | DIEA | 6.32 mmol, 1.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 2.11 mmol, 802 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-butyl ((S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-bromopyrimidin-2-yl)phenyl)propanoyl)-D-alaninate | 1.1 g, 89% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)N[C@H](C)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)Br | C28H31BrN4O5
